### ISSUE TITLE
Is defining inductive proofs on nested datatypes as tricky in Lean as it is in Coq?

### ISSUE THREAD

**Issue by brendanzab** [leanprover/lean3#1842]
### Prerequisites

* [x] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean/issues).
        * Specifically, check out the [wishlist](https://github.com/leanprover/lean/issues?q=is%3Aissue+is%3Aopen+label%3AI-wishlist), open [RFCs](https://github.com/leanprover/lean/issues?q=is%3Aissue+is%3Aopen+label%3ARFC),
        or [feature requests](https://github.com/leanprover/lean/issues?q=is%3Aissue+is%3Aopen+label%3AFeature).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

In [Software Foundations Volume 2, Records: Adding Records to STLC](https://softwarefoundations.cis.upenn.edu/plf-current/Records.html#lab339) it says,

> ### Syntax and Operational Semantics
>
> The most obvious way to formalize the syntax of record types would be this:
>
> ```coq
> Module FirstTry.
> Definition alist (X : Type) := list (id * X).
> Inductive ty : Type :=
>   | TBase : id → ty
>   | TArrow : ty → ty → ty
>   | TRcd : (alist ty) → ty.
> ```
> Unfortunately, we encounter here a limitation in Coq: this type does not automatically give us the induction principle we expect: the induction hypothesis in the TRcd case doesn't give us any information about the ty elements of the list, making it useless for the proofs we want to do.
> ```coq
> (* Check ty_ind.
>    ====>
>     ty_ind :
>       forall P : ty -> Prop,
>         (forall i : id, P (TBase i)) ->
>         (forall t : ty, P t -> forall t0 : ty, P t0 
>                             -> P (TArrow t t0)) ->
>         (forall a : alist ty, P (TRcd a)) ->    (* ??? *)
>         forall t : ty, P t
> *)
> End FirstTry.
> ```
> It is possible to get a better induction principle out of Coq, but the details of how this is done are not very pretty, and the principle we obtain is not as intuitive to use as the ones Coq generates automatically for simple Inductive definitions. 

I'm just wondering if this is still an issue with Lean, especially given the info in the guide on [nested inductive types](https://leanprover.github.io/theorem_proving_in_lean/inductive_types.html#mutual-and-nested-inductive-types) and [mutual recursion](https://leanprover.github.io/theorem_proving_in_lean/induction_and_recursion.html#mutual-recursion).

### Steps to Reproduce

Here's an attempted start to exercise this behaviour, but I got a bit stuck with my proofs 😖 

```lean
namespace test

  @[reducible]
  def fields (ℓ α : Type) :=
    list (ℓ × α)

  inductive type (ℓ : Type) : Type
    | nat {} : type
    | struct : fields ℓ type → type

  inductive expr (ℓ : Type) : Type
    | nat {} : ℕ → expr
    | struct : fields ℓ expr → expr

  section

    variables {ℓ : Type}

    inductive has_type : expr ℓ → type ℓ → Prop
      | nat {nv} :
          has_type (expr.nat nv) type.nat
      | struct_nil {} :
          has_type (expr.struct []) (type.struct [])
      | struct_cons {l e t efs tfs} :
          has_type (expr.struct ((l, e) :: efs)) (type.struct ((l, t) :: tfs))


    lemma expr_type_has_type :
        Π (e : expr ℓ), ∃ (t : type ℓ), has_type e t
      | (expr.nat nv) :=
          ⟨type.nat, has_type.nat⟩
      | (expr.struct []) :=
          ⟨type.struct [], has_type.struct_nil⟩
      | (expr.struct ((l, e) :: efs)) :=
          -- TODO: stuck here!! 🤷
          sorry

    lemma expr_type_has_type' :
        Π (e : expr ℓ), ∃ (t : type ℓ), has_type e t :=
      begin
        intros e,
        induction e,
          -- Not sure why, but the `case` tactic does not work here
          /- case expr.nat nv -/ {
            existsi type.nat,
            exact has_type.nat
          },
          /- case expr.struct a -/ {
            induction a,
              case list.nil {
                existsi (type.struct []),
                exact has_type.struct_nil,
              },
              case list.cons ef efs hht {
                admit -- TODO 🤔
              },
          },
      end

  end

end test
```

### Versions

```
➜  lean git:(master) ✗ lean --version
Lean (version 3.3.0, Release)
```

macOS Sierra 10.12.6

### Additional Information

Any additional information, configuration or data that might be necessary to reproduce the issue.

**Comment by fpvandoorn** [comment]
Here's how you can do it in Lean:
```lean
@[simp] mutual def type_of, type_of_fields
with type_of : expr ℓ → type ℓ
| (expr.nat nv) := type.nat
| (expr.struct []) := type.struct []
| (expr.struct ((l, e) :: efs)) := type.struct ((l,type_of e)::type_of_fields efs)
with type_of_fields : fields ℓ (expr ℓ) → fields ℓ (type ℓ)
| []            := []
| ((l, e)::efs) := (l,type_of e)::type_of_fields efs

lemma has_type_of : Π(e : expr ℓ), has_type e (type_of e)
| (expr.nat nv) := by simp; exact has_type.nat
| (expr.struct []) := by simp; exact has_type.struct_nil
| (expr.struct ((l, e) :: efs)) := begin simp, exact has_type.struct_cons end

lemma expr_type_has_type (e : expr ℓ) : ∃ (t : type ℓ), has_type e t :=
exists.intro (type_of e) (has_type_of e)
```

Some comments:
* Because nested inductive types are encoded in terms of simpler inductive types in Lean, the equality `type_of (expr.nat nv) = type.nat` doesn't hold definitionally. Therefore, we need to use `simp` in the lemma. If you did both the definition and the proof in one go (as you did with the existential quantifier), you wouldn't need the `simp` (but my experience it's easier to have a separate definition giving the actual type instead of just an existential quantifier).
* There is probably a condition missing in `has_type` that `efs` have types `tfs`. If you add that condition, the `lemma` needs to be a `mutual lemma` using the same syntax as the `mutual def`.
* You cannot use things like `list.map` when defining `type_of_fields`, because then the recursion compiler doesn't recognize it's a valid recursive call. So in Lean there is a bit of overhead, because you have to do definitions/proofs also on `fields ℓ (expr ℓ)`, but it's manageable.

**Comment by brendanzab** [comment]
Riiight, so my inductive type would look something like:

```lean
    variables {ℓ : Type}

    mutual inductive expr.has_type, fields.has_type
      with expr.has_type : expr ℓ → type ℓ → Prop
        | nat {nv} :
            expr.has_type (expr.nat nv) type.nat
        | struct_cons {efs tfs} :
            fields.has_type efs tfs →
            expr.has_type (expr.struct efs) (type.struct tfs)

      with fields.has_type : fields ℓ (expr ℓ) → fields ℓ (type ℓ) → Prop
        | nil {} :
            fields.has_type [] []
        | cons {l e t efs tfs} :
            expr.has_type e t →
            fields.has_type efs tfs →
            fields.has_type ((l, e) :: efs) ((l, t) :: tfs)
```

**Comment by Kha** [comment]
On a general note: For questions about using Lean, our [mailing list](https://groups.google.com/forum/#!forum/lean-user) and [Gitter channel](https://gitter.im/leanprover_public/Lobby) are more appropriate media than the issue tracker.
